US09062048B2
Step E: 5-chloro-3-(trifluoromethyl)-1,6-naphthyridine
Into a 50 mL round-bottom flask, was placed a solution of 3-(trifluoromethyl)-1,6-naphthyridin-5(6H)-one (as prepared in the previous step, 1 g, 4.67 mmol, 1.00 equiv) in acetonitrile (10 mL) and phosphoryl trichloride (10 mL). The reaction mixture was stirred for 2 h at 90° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was purified by chromatography over a silica gel column with ethyl acetate/petroleum ether (1:20). The title compound was obtained as a yellow solid.

reactant | 3-(trifluoromethyl)-1,6-naphthyridin-5(6H)-one | FC(C=1C=NC=2C=CNC(C2C1)=O)(F)F | C9H5F3N2O
reactant | phosphoryl trichloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 5-chloro-3-(trifluoromethyl)-1,6-naphthyridine | ClC1=C2C=C(C=NC2=CC=N1)C(F)(F)F | C9H4ClF3N2
